US06806274B1
Using an analogous procedure to that described in the second last paragraph of Note [115] above, 6-morpholino-1-hexyne was reacted with 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-trifluoromethanesulphonyloxyquinazoline to give 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-(6-morpholino-1-hexynyl)quinazoline; NMR Spectrum: (DMSOd6) 1.63 (m, 4H), 2.33 (m, 6H), 2.55 (m, 2H), 3.56 (m, 4H), 4.0 (s, 3H), 7.35-7.8 (m, 3H), 7.65 (s, 1H), 7.96 (s, 1H), 8.6 (s, 1H); Mass Spectrum: M+H+ 514 and 516.

reactant | 6-morpholino-1-hexyne | O1CCN(CC1)CCCCC#C | C10H17NO
reactant | 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-trifluoromethanesulphonyloxyquinazoline | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)OS(=O)(=O)C(F)(F)F)C=CC(=C1)F | C16H9BrF4N2O5S
product | 4-(2-bromo-4-fluorophenoxy)-6-methoxy-7-(6-morpholino-1-hexynyl)quinazoline | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)C#CCCCCN2CCOCC2)C=CC(=C1)F | C25H25BrFN3O3
